US08466193B2
To a solution of 1H-indole-6-carboxylic acid methyl ester (1.0 g, 5.7 mmol) and 3-nitrobenzyl bromide (1.48 g, 6.8 mmol) in DMF (15 mL) was added K2CO3 (1.6 g, 11.4 mmol). After stirring at room temperature for 16 hr, the solution was diluted with ethyl acetate (100 ml) and washed with water (3×50 ml). The organic layer was dried (MgSO4), filtered and concentrated. The remaining residue was recrystallized with ethyl acetate/hexane to provide 1.34 g (76% yield) of 1-(3-nitrobenzyl)-1H-indole-6-carboxylic acid methyl ester as light orange crystals.

reactant | 1H-indole-6-carboxylic acid methyl ester | 5.7 mmol, 1.0 g | COC(=O)C1=CC=C2C=CNC2=C1 | C10H9NO2
reactant | 3-nitrobenzyl bromide | 6.8 mmol, 1.48 g | [N+](=O)([O-])C=1C=C(CBr)C=CC1 | C7H6BrNO2
reactant | K2CO3 | 11.4 mmol, 1.6 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 1-(3-nitrobenzyl)-1H-indole-6-carboxylic acid methyl ester | 1.34 g, 76% yield | COC(=O)C1=CC=C2C=CN(C2=C1)CC1=CC(=CC=C1)[N+](=O)[O-] | C17H14N2O4
